US07846950B2
[2-Fluoro-4-(thiophen-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedures D and E using 2-fluoro-4-hydroxy-benzoic acid methyl ester [CAS 197507-22-5], 2-chloromethyl-thiophene [CAS 2746-23-8], and 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 403.3

reactant | 2-fluoro-4-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)O)F)=O | C8H7FO3
reactant | 2-chloromethyl-thiophene | ClCC=1SC=CC1 | C5H5ClS
reactant | 2-(R)-methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [2-Fluoro-4-(thiophen-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C=CC(=C1)OCC=1SC=CC1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C22H27FN2O2S
